US06770667B1
To a suspension of 9H-carbazole-1-carboxylic acid (106 mg) and 3-(4-methylimidazol-1-yl)aniline (87 mg) in dichloromethane (5 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (144 mg) and 4-dimethylaminopyridine (31 mg), and the mixture was stirred for 40 hours. The mixture was diluted with dichloromethane and washed with water and brine. The mixture was dried over magnesium sulfate and evaporated under reduced pressure. The residue was triturated with methanol, and the insoluble material was collected by filtration and dried to give N-[3-(4-methylimidazol-1-yl)-phenyl]-9H-carbazole-1-carboxamide (68 mg, 37.0%).

reactant | 9H-carbazole-1-carboxylic acid | 106 mg | C1(=CC=CC=2C3=CC=CC=C3NC12)C(=O)O | C13H9NO2
reactant | 3-(4-methylimidazol-1-yl)aniline | 87 mg | CC=1N=CN(C1)C=1C=C(N)C=CC1 | C10H11N3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 144 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 31 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[3-(4-methylimidazol-1-yl)-phenyl]-9H-carbazole-1-carboxamide | 68 mg, 37.0% | CC=1N=CN(C1)C=1C=C(C=CC1)NC(=O)C1=CC=CC=2C3=CC=CC=C3NC12 | C23H18N4O
